US04740455
Synthesis of N-(2-bromoethyl)succinimide
9.9 g of succinimide and 50 ml of N,N-dimethylformamide were put into a 200-ml three-necked flask equipped with a stirrer and a thermometer. 14 g of potassium carbonate was added to the mixture. The admixture was then stirred at room temperature for 30 minutes. 39.6 g of 1,2-dibromoethane was added to the admixture. The admixture was allowed to react at a temperature of 40° to 50° C. for 2 hours. The reaction mixture was poured into water. The aqueous mixture was then extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was crystallized with hexane. The resulting crystal was filtered off and then air-dried. Yield: 16.7 g (81%); m.p. 55° to 56° C.

reactant | succinimide | 9.9 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 39.6 g | BrCCBr | C2H4Br2
solvent | water | O | H2O
product | N-(2-bromoethyl)succinimide | BrCCN1C(CCC1=O)=O | C6H8BrNO2
